US07589232B2
Step a) Formation of N-{4-[(4-chlorophenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)-3-fluorobenzamide
The titled compound was prepared following the procedure E using 6-({4-[(4-chlorophenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one and 3-fluorobenzoyl chloride as a yellow oil (96%). M+ (ESI): 540.2. HPLC, Rt: 5.71 min (Purity: 97.4%).

reactant | 6-({4-[(4-chlorophenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one | ClC1=CC=C(C=C1)C#CC1=CC=C(CNC2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C25H20ClNO3
reactant | 3-fluorobenzoyl chloride | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
product | N-{4-[(4-chlorophenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)-3-fluorobenzamide | ClC1=CC=C(C=C1)C#CC1=CC=C(CN(C(C2=CC(=CC=C2)F)=O)C2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C32H23ClFNO4
